US07612089B2
B. Preparation of (3S)-N-[4-(1-methyl-4,5-dihydro-1H-imidazol-2-yl)phenyl]-2N-(4-chlorophenylaminocarbonyl)-6,7-dimethoxy-1,2,3,4-tetrahydroisoquinoline-3-carboxamide
To a solution of (3S)-2N-(4-chlorophenylaminocarbonyl)-6,7-dimethoxy-1,2,3,4-tetrahydroisoquinoline-3-carboxylic acid (25 mg, 0.064 mmol) and 4-(1-Methyl-4,5-dihydro-1H-imidazol-2-yl)-phenylamine (23 mg, 0.13 mmol) in DMF (2 mL) and H2O (0.5 mL) at room temperature, EDC (49 mg, 0.26 mmol) was added. The mixture was stirred at room for 2 h. It was concentrated in vacuo. The residue was purified by HPLC to give the titled compound as a white powder (20 mg). MS 548.2 and 550.2 (M+H, Cl pattern).

reactant | (3S)-2N-(4-chlorophenylaminocarbonyl)-6,7-dimethoxy-1,2,3,4-tetrahydroisoquinoline-3-carboxylic acid | 0.064 mmol, 25 mg | ClC1=CC=C(C=C1)NC(=O)N1CC2=CC(=C(C=C2C[C@H]1C(=O)O)OC)OC | C19H19ClN2O5
reactant | 4-(1-Methyl-4,5-dihydro-1H-imidazol-2-yl)-phenylamine | 0.13 mmol, 23 mg | CN1C(=NCC1)C1=CC=C(C=C1)N | C10H13N3
reactant | EDC | 0.26 mmol, 49 mg
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
solvent | H2O | 0.5 mL | O | H2O
product | (3S)-N-[4-(1-methyl-4,5-dihydro-1H-imidazol-2-yl)phenyl]-2N-(4-chlorophenylaminocarbonyl)-6,7-dimethoxy-1,2,3,4-tetrahydroisoquinoline-3-carboxamide | 20 mg | CN1C(=NCC1)C1=CC=C(C=C1)NC(=O)[C@H]1N(CC2=CC(=C(C=C2C1)OC)OC)C(=O)NC1=CC=C(C=C1)Cl | C29H30ClN5O4
